US07179941B2
c) 1-(2-Chloro-4,5-difluorobenzoyl)-3-(5-amino-2-methoxyphenyl)urea
2.2 g (5.7 mmol) of 1-(2-chloro-4,5-difluorobenzoyl)-3-(2-methoxy-5-nitrophenyl)urea were heated to the boiling temperature in 50 ml of ethyl acetate and admixed with 6.4 g (28.5 mmol) of SnCl2 monohydrate. After 1 hour, the mixture was allowed to cool to room temperature and the pH was adjusted to 8 using 2 N sodium hydroxide solution. The precipitate which formed was filtered off and washed with methanol, and the mother liquor was washed twice with H2O, dried and concentrated under reduced pressure. The resulting product (1.4 g) was reacted in step d without further purification.

reactant | 1-(2-chloro-4,5-difluorobenzoyl)-3-(2-methoxy-5-nitrophenyl)urea | 5.7 mmol, 2.2 g | ClC1=C(C(=O)NC(=O)NC2=C(C=CC(=C2)[N+](=O)[O-])OC)C=C(C(=C1)F)F | C15H10ClF2N3O5
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 1-(2-Chloro-4,5-difluorobenzoyl)-3-(5-amino-2-methoxyphenyl)urea | ClC1=C(C(=O)NC(=O)NC2=C(C=CC(=C2)N)OC)C=C(C(=C1)F)F | C15H12ClF2N3O3
